* C:\Users\jpulu\OneDrive\Área de Trabalho\TCC\circuit_filter.asc
* Generated by LTspice 24.1.10 for Windows.
R5 tia N001 45k
C2 tia N001 20p
R6 N001 N003 1µ
I2 N003 0 PWL file=fullCircuitInput.txt AC 1
R10 N004 tia 4.7k
R11 165 N004 8.2k
C3 filtered N004 68p
C6 N002 N004 0.01µ
R12 filtered N002 4.7k
V5 3v3 0 3.3
XU3 165 filtered 3v3 0 comp_filter LT1720 ;§pnba In+)In-)V+)V-)OUT
XU1 tia mid 3v3 0 comp_tia LT1720 ;§pnba In+)In-)V+)V-)OUT
XU5 0 N001 3v3 0 tia OPAx350 ;§pnba IN+)IN-)VCC)VEE)OUT
XU6 165 N002 3v3 0 filtered OPAx350 ;§pnba IN+)IN-)VCC)VEE)OUT
V1 mid 0 0.025
V2 165 0 1.65
R1 filtered 0 1000k
.tran 0 0.0201 0 1u
.lib C:\Users\jpulu\OneDrive\Área de Trabalho\TCC\LTSpiceModels\sbom071e\OPAx350.LIB
.lib LT1720.sub
.backanno
.end
